US04231936
EXAMPLE 5: 7-N-(p-hydroxyphenyl)-mitomycin C
Mitomycin A (1 g) and p-aminophenol (2 g) are added to methanol (100 ml) and the mixture is stirred for 5 hours at room temperature. After completion of the reaction, the reaction solution is concentrated under reduced pressure and then dried in vacuo. The dried product is then subjected to silica gel column chromatography developed by acetone-chloroform mixture (1:1) and recrystallized from an acetone-ether mixture to obtain a desired product (950 mg) in the form of green needle crystals with a yield of 78%. This product shows a green spot (Rf=0.1) by silica gel thin layer chromatography using acetone-chloroform mixture (1:1) as developer. The product does not show a precise melting point.

reactant | Mitomycin A | 1 g | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | p-aminophenol | 2 g | C1=CC(=CC=C1N)O | C6H7NO
solvent | methanol | 100 ml | CO | CH4O
product | 7-N-(p-hydroxyphenyl)-mitomycin C | 950 mg, yield of 78% | CC1=C(C(=O)C2=C(C1=O)N3CC4C([C@@]3([C@@H]2COC(=O)N)OC)N4)NC5=CC=C(C=C5)O | C21H22N4O6
